US04212865
To a solution of 1.8 g. of 2-nitro-3-phenyl-5-propionamidobenzofuran in 50 ml. of tetrahydrofuran is added 10 ml. of 1 N diborane, and the solution is stirred for about 18 hours under a nitrogen atmosphere. To this mixture is cautiously added 5 ml. of 6 N hydrochloric acid. The mixture is heated to its reflux temperature and maintained at reflux for about 30 minutes. The solution is evaporated to provide a residue which is partitioned between cold sodium bicarbonate solution and chloroform. The chloroform extracts are dried, then evaporated to provide a red residue which is recrystallized from aqueous ethanol to provide red crystals of 2-nitro-3-phenyl-5-(n-propyl)aminobenzofuran, m.p. 158°-160° C.

reactant | 2-nitro-3-phenyl-5-propionamidobenzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)NC(CC)=O | C17H14N2O4
reactant | diborane | 1 N | B#B | B2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-nitro-3-phenyl-5-(n-propyl)aminobenzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)NCCC | C17H16N2O3
